US05801170
2-Methyl-4-(1,2,4-triazol-1-yl)nitrobenzene
4-Fluoro-2-methyl-nitrobenzene (2 g, 0.013 mol), 1,2,4-triazole (0.9 g, 0.013 mol), potassium carbonate (1.78 g, 0.013 mol) were dissolved in DMSO (50 ml) and stirred at 90° C. for 24 h under dry conditions. The yellow suspension was poured into water (150 ml), extracted (EtOAc), dried (Na2SO4) and evaporated under reduced pressure to afford an orange solid which was purified by flash column chromatography on silica eluting with n-pentane/ethyl acetate (50-100%) to afford a white solid (2.83 g 69%).

reactant | 4-Fluoro-2-methyl-nitrobenzene | 0.013 mol, 2 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 1,2,4-triazole | 0.013 mol, 0.9 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.013 mol, 1.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 2-Methyl-4-(1,2,4-triazol-1-yl)nitrobenzene | CC1=C(C=CC(=C1)N1N=CN=C1)[N+](=O)[O-] | C9H8N4O2
